US06627629B2
Preparation of 1-(5-acetyl-4-methyl-thiazol-2-yl)-3-{(3R,4S)-4-[(S)-3-(4-fluorobenzyl)-piperidine-1-carbonyl]-1,1-dioxo-tetrahydro-1λ6-thiophen-3-yl}-urea
[(3R,4S)-4-Amino-1,1-dioxo-tetrahydrothiophen-3-yl]-[(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-methanone (50 mg, 141 μmol) and [5-acetyl-4-methylthiazol-2-yl]-carbamic acid phenyl ester (43 mg, 155 μmol) were dissolved in N,N-dimethylformamide (1 mL) and treated with triethylamine (22 μL, 155 μmol). The mixture was stirred at room temperature for 94 h , and then concentrated. The residue was purified by flash column chromatography (4% methanol/dichloromethane containing 0.4% aqueous ammonium hydroxide) to provide a white solid (41 mg, 55%). 1H NMR (300 mHz, CD3OD) δ7.16 (m, 2H), 6.95 (m, 2H), 4.74 (m, 1H), 4.32 (m, 1H), 4.1-3.8 (m, 2H), 3.6-3.5 (m, 2H), 3.4-3.2 (m, 2H), 3.2-2.8 (m, 2H), 2.54 (s, 3H), 2.5 (m, 2H), 2.46+2.44 (2s, 3H), 1.75 (m, 3H), 1.43 (m, 1H), 1.23 (m, 1H), ESI MS: (M+H)+=537.4.

reactant | [(3R,4S)-4-Amino-1,1-dioxo-tetrahydrothiophen-3-yl]-[(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-methanone | 141 μmol, 50 mg | N[C@H]1[C@@H](CS(C1)(=O)=O)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C17H23FN2O3S
reactant | [5-acetyl-4-methylthiazol-2-yl]-carbamic acid phenyl ester | 155 μmol, 43 mg | C1(=CC=CC=C1)OC(NC=1SC(=C(N1)C)C(C)=O)=O | C13H12N2O3S
reactant | triethylamine | 155 μmol, 22 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(5-acetyl-4-methyl-thiazol-2-yl)-3-{(3R,4S)-4-[(S)-3-(4-fluorobenzyl)-piperidine-1-carbonyl]-1,1-dioxo-tetrahydro-1λ6-thiophen-3-yl}-urea | 41 mg, 55% | C(C)(=O)C1=C(N=C(S1)NC(=O)N[C@H]1CS(C[C@@H]1C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F)(=O)=O)C | C24H29FN4O5S2
